US04433152
A mixture of 826 mg of 1-amidino-4-piperidinecarboxylic acid hydrochloride and 1.4 g of diphenyl sulfite was stirred overnight at room temperature in a solution of 10 ml of dry dimethylformamide and 4 ml of dry pyridine. The solvent was removed under reduced pressure, and the residue was washed three times with 20 ml of ether. 10 ml of acetone was added to the residue, and the mixture was stirred to give crystals. The crystals were washed with acetone and dried to obtain 600 mg (yield: 53%) of phenyl 1-amidino-4-piperidinecarboxylate hydrochloride as crystalline powder having a melting point of 155.5° to 161.5° C.

reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 826 mg | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
reactant | diphenyl sulfite | 1.4 g | S(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C12H10O3S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | phenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 600 mg, yield: 53% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=CC=CC=C1 | InChI=1S/C13H17N3O2.ClH/c14-13(15)16-8-6-10(7-9-16)12(17)18-11-4-2-1-3-5-11;/h1-5,10H,6-9H2,(H3,14,15);1H
